US08114868B2
5-Bromo-1-ethyl-3-methylpyridin-2(1H)-one was prepared by alkylation of 5-bromo-3-methylpyridin-2(1H)-one with ethyl iodide following a procedure analogous to that described in Example 59 Step 1.

reactant | 5-bromo-3-methylpyridin-2(1H)-one | BrC=1C=C(C(NC1)=O)C | C6H6BrNO
reactant | ethyl iodide | C(C)I | C2H5I
product | 5-Bromo-1-ethyl-3-methylpyridin-2(1H)-one | BrC=1C=C(C(N(C1)CC)=O)C | C8H10BrNO
